US04435569
In 5.0 ml of dry methanol were dissolved 251 mg of 2-amino-5-aminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one and 64 mg of propionaldehyde and the solution was allowed to stand under stirring at room temperature for 30 min. Then, 20 mg of sodium borohydride was added and the mixture was reacted at room temperature for an hour. The excess reagent was decomposed with a small amount of acetic acid, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to give 76 mg of 2-amino-5-propylaminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one. The whole amount of this product was dissolved in 30 ml of 2 N--HCl and, after nitrogen purging, hydrolyzed under heating at 70° C. for 6.5 hours. The solvent was then evaporated off under reduced pressure to give 73 mg of the desired compound.

reactant | 2-amino-5-aminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one | 251 mg | NC1N(C(C=2C(=N1)N=CC2CN)=O)COC(C)C | C11H17N5O2
reactant | propionaldehyde | 64 mg | C(CC)=O | C3H6O
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5.0 ml | CO | CH4O
product | 2-amino-5-propylaminomethyl-3-isopropyloxymethylpyrrolo[2,3-d]pyrimidin-4-one | 76 mg | NC1N(C(C=2C(=N1)N=CC2CNCCC)=O)COC(C)C | C14H23N5O2
